US03939173
b. 2,6-Dicyanoanthraquinone
Thionyl chloride (10.0 ml) was added to dimethylformamide (100 ml.) at -30°C. with stirring in 1 ml. portions. To the resulting solution, anthraquinone-2,6-dicarboxamide (4.74 g.) was added in one portion and the temperature of the mixture was allowed to rise slowly to 5°C. by placing in an ice-bath. After 30 min. at this temperature, the mixture was heated over 30 min. to 65°C. The heterogeneous mixture was then poured into iced water and the solid filtered off, dried, and recrystallised from dimethylsulphoxide, 2.60g. m.p. 392°C. (decomp.) in a sealed, evacuated tube.

reactant | Thionyl chloride | 10.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | anthraquinone-2,6-dicarboxamide | 4.74 g | C1=C(C=CC=2C(C3=CC(=CC=C3C(C12)=O)C(=O)N)=O)C(=O)N | C16H10N2O4
solvent | water | O | H2O
product | 2,6-Dicyanoanthraquinone | C(#N)C1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)C#N)=O | C16H6N2O2
